US08497265B2
The mixture of tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (4.0 g, 12.9 mmol) in HCl/MeOH (20 mL) was stirred at room temperature for 1 hour. Then it was concentrated to give 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine hydrochloride (2.9 g, 11.8 mmol, yield: 91.4%) which was used in the next step without further purification. ESI-MS (M+1): 210 calc. for C11H20BNO2 209.

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 12.9 mmol, 4.0 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | HCl MeOH | 20 mL | Cl.CO
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine hydrochloride | 11.8 mmol, 2.9 g, yield: 91.4% | Cl.CC1(OB(OC1(C)C)C=1CCNCC1)C | InChI=1S/C11H20BNO2.ClH/c1-10(2)11(3,4)15-12(14-10)9-5-7-13-8-6-9;/h5,13H,6-8H2,1-4H3;1H
